US05294612
A mixture of 1-(2-hydroxycyclopentyl)-3-methyl-1H-pyrazole-4-carboxamide (2.4 g, 10 mmol), 4-pyridinecarboxamidine hydrochloride (3.2 g, 20 mmol), potassium carbonate (2.8 g, 20 mmol) and DMF (50 ml) were heated under reflux for 28 hours. The solvent was removed in vacuo, the residue was dissolved in hot water (25 ml) and was filtered. The filtrate was acidified with acetic acid and the resulting white precipitate was collected by filtration and recrystallized from DMF to afford 0.73 g (21%) of 1-(2-hydroxycyclopentyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one as white needles, m.p. 281°-283° C.

reactant | 1-(2-hydroxycyclopentyl)-3-methyl-1H-pyrazole-4-carboxamide | 10 mmol, 2.4 g | OC1C(CCC1)N1N=C(C(=C1)C(=O)N)C | C10H15N3O2
reactant | 4-pyridinecarboxamidine hydrochloride | 20 mmol, 3.2 g | Cl.N1=CC=C(C=C1)C(=N)N
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(2-hydroxycyclopentyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 0.73 g, 21% | OC1C(CCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C16H17N5O2
